US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-4-fluorobenzothiazole-6-sulfonic acid amide (598-49):
The title compound (280 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-4-fluorobenzothiazole-7-sulfonyl chloride, which had been derived from the chlorosulfonation of 320 mg of 4-(4-fluorobenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine, and a solution of excess ammonia dissolved in ethanol. MS (m/z, ES+): 328.0 (M+1, 100%). Yield=72%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-4-fluorobenzothiazole-7-sulfonyl chloride | NC1=C(C(=NN1)C)C=1SC2=C(N1)C(=CC=C2S(=O)(=O)Cl)F | C11H8ClFN4O2S2
reactant | 4-(4-fluorobenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 320 mg | FC1=CC=CC2=C1N=C(S2)C2=C(NN=C2C)N | C11H9FN4S
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-4-fluorobenzothiazole-6-sulfonic acid amide | 280 mg, Yield=72% | NC1=C(C(=NN1)C)C=1SC2=C(N1)C(=CC(=C2)S(=O)(=O)N)F | C11H10FN5O2S2
